US07825131B2
Step B: {2-[(2,4-Dimethoxybenzyl)amino]-5-methoxyphenyl}(3-fluorophenyl)methanone
To a solution of (2-Amino-5-methoxyphenyl)(3-fluorophenyl)methanone (0.984 g, 4.01 mmol) in 15 mL of dichloroethane was added 4 Å powdered molecular sieves (1 g), followed by sodium triacetoxyborohydride (2.55 g, 12.0 mmol) and acetic acid (0.69 mL, 12.0 mmol). 2,4-Dimethoxybenzaldehyde was added (0.667 g, 4.01 mmol), and the reaction was stirred at room temperature for 3 hours. The reaction was partitioned between EtOAc and saturated NaHCO3 solution, and the organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The titled product was isolated as a red oil (1.66 g) which was used in the next step without further purification. ESI+MS: 396.2 [M+H]+.

reactant | (2-Amino-5-methoxyphenyl)(3-fluorophenyl)methanone | 4.01 mmol, 0.984 g | NC1=C(C=C(C=C1)OC)C(=O)C1=CC(=CC=C1)F | C14H12FNO2
reactant | sodium triacetoxyborohydride | 12.0 mmol, 2.55 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 12.0 mmol, 0.69 mL | C(C)(=O)O | C2H4O2
reactant | 2,4-Dimethoxybenzaldehyde | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | {2-[(2,4-Dimethoxybenzyl)amino]-5-methoxyphenyl}(3-fluorophenyl)methanone | COC1=C(CNC2=C(C=C(C=C2)OC)C(=O)C2=CC(=CC=C2)F)C=CC(=C1)OC | C23H22FNO4
